US05656596
N-BOC-L-valine
A larger excess of 6 to 8 equivalents is used in the coupling of steps (h) and (m) with the tert-butoxycarbonyl-protected amino acids aparagine, glutamine, isoleucine, proline, and threonine. In the cycles following addition of a tryptophane residue, 2% 1,2-ethanedithiol (FLUKA) is added to the deprotection steps (a) and (b) in order to prevent the oxidation of the indole ring. Dehydration of the carboxamide function of glutamine is minimized by preforming the 1-hydroxybenzotriazole ester (0°, 15 min) before addition to the resin in step (h).

reactant | glutamine | N[C@@H](CCC(N)=O)C(=O)O | C5H10N2O3
reactant | isoleucine | N[C@@H]([C@@H](C)CC)C(=O)O | C6H13NO2
reactant | proline | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | threonine | N[C@@H]([C@H](O)C)C(=O)O | C4H9NO3
reactant | tryptophane | N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)O | C11H12N2O2
reactant | 1,2-ethanedithiol | C(CS)S | C2H6S2
product | N-BOC-L-valine | C(=O)(OC(C)(C)C)N[C@@H](C(C)C)C(=O)O | C10H19NO4
